US09303033B2
To 5-((7-(benzylsulfinyl)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (15 mg, 0.0304 mmol) in NMP was added 2-aminoethanol (14.6 μL, 0.242 mmol). The mixture was heated in the microwave at 120° C. for 20 minutes. Water was added to the reaction mixture and the precipitate was collected by filtration. The precipitate was washed with methanol to yield 5-((5-(3-chlorophenylamino)-7-(2-hydroxyethylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione LCMS (M+1=414). Similar products (shown below) were also obtained as precipitates by addition of water while other reactions were purified by prep HPLC to yield corresponding products.

reactant | 5-((7-(benzylsulfinyl)-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.0304 mmol, 15 mg | C(C1=CC=CC=C1)S(=O)C1=CC(=NC=2N1N=CC2C=C2C(NC(N2)=O)=O)NC2=CC(=CC=C2)Cl | C23H17ClN6O3S
reactant | 2-aminoethanol | 0.242 mmol, 14.6 μL | NCCO | C2H7NO
reactant | Water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-((5-(3-chlorophenylamino)-7-(2-hydroxyethylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NCCO)N=CC2C=C2C(NC(N2)=O)=O | C18H16ClN7O3
